US08003651B2
4-Chloro-3-fluorobenzaldehyde (1.0 g, 6.3 mmol) was added to a solution of ethyl 2-cyanoacetate (0.71 g, 6.3 mmol) and piperidine (0.081 ml, 0.82 mmol) in toluene (10 mL) at room temperature. The mixture was heated at 100° C. for 7 hours. Upon cooling to room temperature, the mixture was concentrated in vacuo and rinsed with hexane to give ethyl 3-(4-chloro-3-fluorophenyl)-2-cyanoacrylate (1.4 g, 88%). LCMS (APCI+) [M+H]+ 253.1.

reactant | 4-Chloro-3-fluorobenzaldehyde | 6.3 mmol, 1.0 g | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
reactant | ethyl 2-cyanoacetate | 6.3 mmol, 0.71 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.82 mmol, 0.081 ml | N1CCCCC1 | C5H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(4-chloro-3-fluorophenyl)-2-cyanoacrylate | 1.4 g, 88% | ClC1=C(C=C(C=C1)C=C(C(=O)OCC)C#N)F | C12H9ClFNO2
